US05618811
C. 4-Cyclohexyl-7-methyl-1,2,3,4-tetrahydronaphth-1-one oxime
To a 125 mL round-bottomed flask equipped with condenser and nitrogen inlet were added 5.20 grams (21.49 mmol) 4-cyclohexyl 7-methyl-1,2,3,4-tetrahydronaphth-1-one, 54 mL methanol, 3.25 grams (32.23 mmol) triethylamine, and 2.22 grams (32.23 mmol) hydroxylamine hydrochloride. The reaction was stirred at room temperature for 1.5 days, evaporated, partitioned between ethyl acetate and water, and the aqueous layer extracted with fresh ethyl acetate. The combined organic layer was dried over sodium sulfate and evaporated to an oil, which was used directly.

reactant | 4-cyclohexyl 7-methyl-1,2,3,4-tetrahydronaphth-1-one | 21.49 mmol, 5.20 grams | C1(CCCCC1)C1CCC(C2=CC(=CC=C12)C)=O | C17H22O
reactant | triethylamine | 32.23 mmol, 3.25 grams | C(C)N(CC)CC | C6H15N
reactant | hydroxylamine hydrochloride | 32.23 mmol, 2.22 grams | Cl.NO
solvent | methanol | 54 mL | CO | CH4O
product | 4-Cyclohexyl-7-methyl-1,2,3,4-tetrahydronaphth-1-one oxime | C1(CCCCC1)C1CCC(C2=CC(=CC=C12)C)=NO | C17H23NO
